US08207174B2
1-(3-(hydroxymethyl)phenoxy)-3-(1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propan-2-ol
Synthesis followed SP6 (iPrOH:DMSO 1:1, 35 h), using 150 μmol (3-(oxiran-2-ylmethoxy)phenyl)methanol and 1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine to give the title compound with 36% yield upon purification by prep. HPLC (reversed phase).

reactant | (3-(oxiran-2-ylmethoxy)phenyl)methanol | 150 μmol | O1C(C1)COC=1C=C(C=CC1)CO | C10H12O3
reactant | 1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine | CC1=C(SC=2N=CN=C(C21)N2CCC(CC2)N)C2=CC=CC=C2 | C18H20N4S
solvent | iPrOH DMSO | CC(C)O.CS(=O)C
product | 1-(3-(hydroxymethyl)phenoxy)-3-(1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propan-2-ol | 36% yield | OCC=1C=C(OCC(CNC2CCN(CC2)C=2C3=C(N=CN2)SC(=C3C)C3=CC=CC=C3)O)C=CC1 | C28H32N4O3S
